US07199244B2
Preparation VI—4-amino-7-cyanochroman
4-Azido-7-cyanochroman (4.3 g, 21 mmol) was dissolved in EtOAc (200 mL) and purged with N2. Pd/C (10%, 0.6 g) was added and the reaction was purged with N2. The reaction was purged with H2 and rapidly stirred under a H2 atmosphere until consumption of starting material was complete by TLC analysis (approximately 1 h). The reaction was purged with N2, and filtered through Celite®. The Celite® was washed with MeOH. The solution was concentrated in vacuo to provide a residue which was purified by column chromatography (silica, 3% MeOH in CH2Cl2 plus 0.5% NH4OH) to provide the title compound.

reactant | 4-Azido-7-cyanochroman | 21 mmol, 4.3 g | N(=[N+]=[N-])C1CCOC2=CC(=CC=C12)C#N | C10H8N4O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-amino-7-cyanochroman | NC1CCOC2=CC(=CC=C12)C#N | C10H10N2O
